US04562186
[3-(4-Methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid
Finely powdered isopropyl[3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetate (13.5 g) was added in portions over 15 minutes to concentrated H2SO4 (1000 ml) with mechanical stirring. The mixture was stirred an additional 15 minutes until the ester dissolved. The resulting solution was added slowly to ice water (6 liters) with stirring. The precipitated solid was filtered and dissolved in Et2O (1500 ml). The organic phase was washed with water until neutral, saturated NaCl, dried over Na2SO4, and concentrated in vacuo to give 11.0 g of an amorphous solid. The crude acid (7.7 g) was triturated with boiling Et2O (500 ml) to give 3.6 g (45%) of a powder, m.p. 126°-127°.

reactant | isopropyl[3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetate | 13.5 g | C(C)(C)OC(CC1=NC(=NO1)C(C1=CC=C(C=C1)OC)=O)=O | C15H16N2O5
reactant | H2SO4 | 1000 ml | OS(=O)(=O)O | H2O4S
product | [3-(4-Methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid | 11.0 g | COC1=CC=C(C(=O)C2=NOC(=N2)CC(=O)O)C=C1 | C12H10N2O5
